US09029409B2
To a stirred solution of 6-((S)-5-((2R,5R)-5-(aminomethyl)-1,4-dioxan-2-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide (0.15 g, 0.326 mmol, Preparation #J.1) in DCM (3 mL) at 0° C., was added TEA (0.100 mL, 0.718 mmol) followed by (S)-(−)-2-acetoxypropionylchloride (0.045 mL, 0.359 mmol, Spectrochem). The reaction mixture was stirred for 30 min. at the same temperature and was quenched with water (10 mL). The product was extracted with DCM (2×10 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resulting crude was purified using silica gel column chromatography by eluting with 70% EtOAc in hexane. The relevant fractions containing compound were combined and concentrated to afford (S)-1-(((2R,5R)-5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxan-2-yl)methylamino)-1-oxopropan-2-yl acetate 0.11 g (58%); 1H NMR (400 MHz, DMSO): δ 9.48 (t, J=6.4 Hz, 1H), 8.13 (s, 1H), 7.17-7.11 (m, 2H), 6.89-6.86 (m, 1H), 4.87-4.85 (m, 1H), 4.79-4.78 (m, 1H), 4.48 (d, J=6.4 Hz, 2H), 3.88-3.85 (m, 1H), 3.81 (s, 3H), 3.74-3.63 (m, 2H), 3.49-3.37 (m, 4H), 3.26-3.21 (m, 2H), 3.09-3.07 (m, 2H), 2.75 (s, 3H), 2.04 (s, 3H), 1.30 (d, J=6.8 Hz, 3H); LC/MS) (Table 1, method c) Rt=3.12 min; MS: m/z 574 (m+H)+.

reactant | 6-((S)-5-((2R,5R)-5-(aminomethyl)-1,4-dioxan-2-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | 0.326 mmol, 0.15 g | NC[C@H]1OC[C@@H](OC1)[C@@H]1CC(=NO1)C1=CC(=NC(=N1)C)C(=O)NCC1=CC(=C(C=C1)F)OC | C22H26FN5O5
reactant | (S)-(−)-2-acetoxypropionylchloride | 0.359 mmol, 0.045 mL | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(((2R,5R)-5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxan-2-yl)methylamino)-1-oxopropan-2-yl acetate | 0.11 g, 58% | C(C)(=O)O[C@H](C(=O)NC[C@H]1OC[C@@H](OC1)[C@@H]1CC(=NO1)C1=NC(=NC(=C1)C(NCC1=CC(=C(C=C1)F)OC)=O)C)C | C27H32FN5O8
